spice
* SPICE Netlist

V1 7 3 DC 5V

* BJTs
Q1 4 2 7 QMODEL
Q2 3 9 3 QMODEL
Q3 3 4 7 QMODEL

* MOSFETs
M1 2 8 5 5 NMOSMODEL L=1u W=1u
M2 6 3 5 5 NMOSMODEL L=1u W=1u

* Resistors
R1 7 4 1k
R2 4 7 10k
R3 3 9 10k
R4 8 3 30k
R5 3 5 1k

* Models
.model QMODEL NPN (IS=1E-14 BF=100)
.model NMOSMODEL NMOS (Level=1)

.END